US04183909
12.83 g (28.2 mmoles) of Z-Asp(OtBu)-D-Phg-NH2, prepared as described in Example 1, Step 3, are dissolved in 200 ml of DMF, and 2.46 ml (28.2 mmoles) of concentrated hydrochloric acid and 2 g of palladium-on-carbon catalyst are added to the cooled solution. Gaseous hydrogen is bubbled through the resulting suspension for 2.5 hours under stirring. The catalyst is filtered off, the filtrate is evaporated, the residue is dissolved in ethanol, and the solution is decolourized. Ethanol is evaporated in vacuo, and the residue is triturated with ether. 10.0 g (99%) of H-Asp(OtBu)-D-Phg-NH2.HCl are obtained; the chromatographically uniform substance melts at 169°-170° C. Rf4 =0.15.

reactant | Z-Asp(OtBu)-D-Phg-NH2 | 28.2 mmoles, 12.83 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C24H29N3O6
reactant | hydrochloric acid | 28.2 mmoles, 2.46 ml | Cl | ClH
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | palladium-on-carbon | 2 g | [Pd] | Pd
product | H-Asp(OtBu)-D-Phg-NH2.HCl | 10.0 g, 99% | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N.Cl | InChI=1S/C16H23N3O4.ClH/c1-16(2,3)23-12(20)9-11(17)15(22)19-13(14(18)21)10-7-5-4-6-8-10;/h4-8,11,13H,9,17H2,1-3H3,(H2,18,21)(H,19,22);1H/t11-,13+;/m0./s1
